US04435406
14.6 g of 5-acetamino-6-nitro-indane were boiled under reflux overnight in 1.5 l of methanol with 300 ml of hydrochloric acid in methanol and then evaporated. 11.8 g of crude product were recrystallized from acetonitrile. There were obtained 10.9 g (92.3% of theory) of 5-amino-6-nitro-indane of melting point 131°-132° C.

reactant | 5-acetamino-6-nitro-indane | 14.6 g | N(C(=O)C)C=1C=C2CCCC2=CC1[N+](=O)[O-] | C11H12N2O3
reactant | hydrochloric acid | 300 ml | Cl | ClH
solvent | methanol | 1.5 l | CO | CH4O
product | 5-amino-6-nitro-indane | 10.9 g, 92.3% | NC=1C=C2CCCC2=CC1[N+](=O)[O-] | C9H10N2O2
